* PSpice Model
*$
*PART NUMBER:RESNET_4P_2K2
*Resistor network with four 2.2 kOhm resistors
*Version:1.0
********************************************
.SUBCKT RESNET_4P_2K2 1 2 3 4 5 6 7 8

.PARAM
+ RN = { 2.2E03 }

R1 1 8 { RN }
R2 2 7 { RN }
R3 3 6 { RN }
R4 4 5 { RN }

.ENDS RESNET_4P_2K2
